US09403801B2
Step 6) tert-butyl 4-((2-chloro-5-methylpyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of 2,4-dichloro-5-methylpyrimidine (0.5 g, 3.07 mmol) and tert-butyl 4-amino-2-azaspiro[4.4]nonane-2-carboxylate (0.77 g, 3.22 mmol) in EtOH (15 mL) was added Et3N (0.62 g, 6.13 mmol) and the mixture was stirred at rt for 24 h, then concentrated in vacuo. The residue was purified by silica gel column chromatography (PE/EtOAc (v/v)=2/1) to give the product as colourless oil (0.23 g, 21%).

reactant | 2,4-dichloro-5-methylpyrimidine | 3.07 mmol, 0.5 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tert-butyl 4-amino-2-azaspiro[4.4]nonane-2-carboxylate | 3.22 mmol, 0.77 g | NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | Et3N | 6.13 mmol, 0.62 g | CCN(CC)CC | C6H15N
solvent | EtOH | 15 mL | CCO | C2H6O
product | tert-butyl 4-((2-chloro-5-methylpyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 0.23 g, 21% | ClC1=NC=C(C(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C)C | C18H27ClN4O2
